US06906107B2
Paratoluenesulfonic acid (20 mg) was added to a solution of 235 mg of 1,1-(ethylenedioxy)-3-(14-hydroxytetradecyl)-4-methyl-3-(phenylsulfonyl)-cyclohexane in 20 ml of chloroform and 4 ml of acetone. The resulting mixture was reacted at 50° C. for 24 hours. To the reaction mixture was added 10 ml of a saturated aqueous solution of sodium bicarbonate, followed by extraction with dichloromethane. The organic layer was washed with saturated saline, dried over magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column while using hexane-ethyl acetate, whereby 3-(14-hydroxytetradecyl)-4-methyl-2-cyclohexen-1-one was obtained in the form of a colorless oil (yield: 75%).

reactant | 1,1-(ethylenedioxy)-3-(14-hydroxytetradecyl)-4-methyl-3-(phenylsulfonyl)-cyclohexane | 235 mg | C1OC2(CC(C(CC2)C)(S(=O)(=O)C2=CC=CC=C2)CCCCCCCCCCCCCCO)OC1 | C29H48O5S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | 3-(14-hydroxytetradecyl)-4-methyl-2-cyclohexen-1-one | OCCCCCCCCCCCCCCC1=CC(CCC1C)=O | C21H38O2
